US05166170
1-(1,1-Dimethylethoxycarbonyl)-2-[2-(1,1-dimethylethoxycarbonyl)aminophenyl]-2,3-dihydro-1H-indole
To a mixture of 5.00 g 2-(2-aminophenyl)-2,3-dihydro-1H-indole in 110 ml CH2Cl2 and 5 ml Et3N at 10° C. was added 8.83 g di-tert-butyl dicarbonate. The resulting solution was stirred three days at room temperature. It was then washed with 5% NaOH, water and salt. NaCl solution and dried (MgSO4). Concentration and purification by HPLC using 10% hexane/CH2Cl2 yielded a solid. Recrystallization from ethanol/water yielded 2.98 g solid, m.p. 148°-150° C.

reactant | 2-(2-aminophenyl)-2,3-dihydro-1H-indole | 5.00 g | NC1=C(C=CC=C1)C1NC2=CC=CC=C2C1 | C14H14N2
reactant | di-tert-butyl dicarbonate | 8.83 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 110 ml | C(Cl)Cl | CH2Cl2
solvent | Et3N | 5 ml | CCN(CC)CC | C6H15N
product | 1-(1,1-Dimethylethoxycarbonyl)-2-[2-(1,1-dimethylethoxycarbonyl)aminophenyl]-2,3-dihydro-1H-indole | 2.98 g | CC(C)(OC(=O)N1C(CC2=CC=CC=C12)C1=C(C=CC=C1)NC(=O)OC(C)(C)C)C | C24H30N2O4
